US04894366
To a stirred solution of the FR-900506 substance (89.7 mg) in dichloromethane (3 ml) were added imidazole (118 mg) and tert-butyl-diphenylsilyl chloride (52.2 mg). After the mixture was stirred at room temperature for 2 hours, the reaction mixture was diluted with a saturated aqueous ammonium chloride and extracted three times with diethyl ether. The extract was washed with water and an aqueous sodium chloride, dried over sodium sulfate, and then concentrated under reduced pressure. The residue was purified on silica gel column chromatography (developing solvent: ethyl acetate and hexane, 1:3 v/v) to give 17-allyl-12-[2-(4-tert-butyl-diphenylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone (107 mg).

reactant | FR-900506 | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
reactant | imidazole | 118 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-diphenylsilyl chloride | 52.2 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 17-allyl-12-[2-(4-tert-butyl-diphenylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone | 107 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)OC)C)C)O)=O | C60H87NO12Si
